US08937150B2
2,2-bis(3-bromophenyl)propane-1,3-diyl dimethanesulfonate
To a stirred solution of 2,2-bis(3-bromophenyl)propane-1,3-diol (6.0 g, 15.54 mmol) in dichloromethane (50 mL) at 0° C. was added methanesulfonic chloride (27.1 g, 155 mmol) and Et3N (17.3 mL, 124 mmol) to give an orange solution. The reaction mixture was stirred at 0° C. for 1 h, then at 40° C. for 8 h. The reaction was washed with aq. NH4Cl (80 mL). The aqueous layer was extracted with dichloromethane (50 mL×3). The combined organic layers were dried and concentrated. The residue was purified by chromatography (on silica gel column, Petroleum ether: EtOAc=2:1) to afford 3.2 g of the title compound (5.9 mmol, 38%). LC/MS: [M+18]=560. 1HNMR (CDCl3), 400 MHz: δ 2.93 (s, 6H), 4.49 (s, 4H), 7.15-7.48 (m, 8H).

reactant | 2,2-bis(3-bromophenyl)propane-1,3-diol | 15.54 mmol, 6.0 g | BrC=1C=C(C=CC1)C(CO)(CO)C1=CC(=CC=C1)Br | C15H14Br2O2
reactant | methanesulfonic chloride | 155 mmol, 27.1 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 124 mmol, 17.3 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2,2-bis(3-bromophenyl)propane-1,3-diyl dimethanesulfonate | 5.9 mmol, 3.2 g, 38% | CS(=O)(=O)OCC(COS(=O)(=O)C)(C1=CC(=CC=C1)Br)C1=CC(=CC=C1)Br | C17H18Br2O6S2
